US08497264B2
To a solution of 2-(9-amino-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)ethanol (7.17 g, 19.47 mmol) in THF (100 mL) was added 4-nitrobenzoyl isothiocyanate (4.26 g, 20.45 mmol). The reaction mixture was stirred for 30 min at RT. EDC (5.60 g, 29.2 mmol) and TEA (0.543 ml, 3.89 mmol) were added sequentially and the reaction mixture was heated to 70° C. for 1 hr. The reaction mixture was cooled to RT and water (50 ml) was added. The reaction mixture was stirred for 1 hr, upon which a precipitate formed, which was filtered off and washed with water and MeOH. The solid was dried to afford N-(7′-bromo-4′-fluoro-2′-methoxy-5,6-dihydrospiro[[1,3]oxazine-4,9′-xanthene]-2-yl)-4-nitrobenzamide (6.0 g, 11.06 mmol, 56.8% yield).

reactant | 2-(9-amino-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)ethanol | 19.47 mmol, 7.17 g | NC1(C2=CC(=CC=C2OC=2C(=CC(=CC12)OC)F)Br)CCO | C16H15BrFNO3
reactant | 4-nitrobenzoyl isothiocyanate | 20.45 mmol, 4.26 g | [N+](=O)([O-])C1=CC=C(C(=O)N=C=S)C=C1 | C8H4N2O3S
reactant | EDC | 29.2 mmol, 5.60 g
reactant | water | 50 ml | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(7′-bromo-4′-fluoro-2′-methoxy-5,6-dihydrospiro[[1,3]oxazine-4,9′-xanthene]-2-yl)-4-nitrobenzamide | 11.06 mmol, 6.0 g, 56.8% yield | BrC1=CC=C2OC=3C(=CC(=CC3C3(C2=C1)N=C(OCC3)NC(C3=CC=C(C=C3)[N+](=O)[O-])=O)OC)F | C24H17BrFN3O6
